US04218460
2-(2-chlorophenyl)-5-[2-(1-methyl-5-nitroimidazol-2-yl)-vinyl]-1,3,4-thiadiazole
21 g of 2-methyl-5-(2-chlorophenyl)-1,3,4-thiadiazole and 15.5 g of 1-methyl-5-nitroimidazole-2-carboxaldehyde are heated with 0.5 g of ZnCl2 in a mixture of 100 ml of acetic acid and 50 ml of acetic anhydride for 6 hours at reflux temperature. After cooling, ether is added to the reaction mixture, and the precipitated solid is washed with water and recrystallized from dimethylformamide. 18.5 g of product is obtained, corresponding to 53% of the theory. The compound melts at 239° C.

reactant | 2-methyl-5-(2-chlorophenyl)-1,3,4-thiadiazole | 21 g | CC=1SC(=NN1)C1=C(C=CC=C1)Cl | C9H7ClN2S
reactant | 1-methyl-5-nitroimidazole-2-carboxaldehyde | 15.5 g | CN1C(=NC=C1[N+](=O)[O-])C=O | C5H5N3O3
reactant | ether | CCOCC | C4H10O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | ZnCl2 | 0.5 g | [Cl-].[Cl-].[Zn+2]
product | 2-(2-chlorophenyl)-5-[2-(1-methyl-5-nitroimidazol-2-yl)-vinyl]-1,3,4-thiadiazole | 18.5 g | ClC1=C(C=CC=C1)C=1SC(=NN1)C=CC=1N(C(=CN1)[N+](=O)[O-])C | C14H10ClN5O2S
